US07186729B2
4-(4-Chloro-phenyl)-1-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo-[a,d]cyclohepten-5-ylidene]-propyl}-piperidine-4-carbonitrile
To a suspension of 4-(4-chloro-phenyl)-piperidine-4-carbonitrile (180 mg, 0.8 mmol) in acetonitrile/water (4/1) was added potassium carbonate (221 mg, 1.6 mmol), followed by 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol (150 mg, 0.4 mmol). The reaction mixture was stirred at room temperature for 48 hours and then concentrated in vacuo. The resulting residue was treated with water and extracted with ethyl acetate. Solvent was evaporated from the combined dried (MgSO4) organic extracts, and the residue was purified by column chromatography on silica gel using hexane-ethyl acetate (6:4) to afford the title compound.

reactant | 4-(4-chloro-phenyl)-piperidine-4-carbonitrile | 0.8 mmol, 180 mg | ClC1=CC=C(C=C1)C1(CCNCC1)C#N | C12H13ClN2
reactant | potassium carbonate | 1.6 mmol, 221 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 0.4 mmol, 150 mg | BrCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
solvent | acetonitrile water | C(C)#N.O
product | 4-(4-Chloro-phenyl)-1-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo-[a,d]cyclohepten-5-ylidene]-propyl}-piperidine-4-carbonitrile | ClC1=CC=C(C=C1)C1(CCN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O)C#N | C31H32ClN3O2
